US07906645B2
4-[(2R)(4-Cyclopropylpiperazin-2-yl)carbonyl]-N-(3,4-dichlorophenyl)piperazine-1-carboxamide
The benzyl 4-cyclopropyl-2-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)carbonyl]piperazine-1-carboxylate used in the above was prepared in a manner analogous to benzyl 4-{[(3R)-1-cyclopropylpiperidin-3-yl]methyl}piperazine-1-carboxylate.

reactant | benzyl 4-cyclopropyl-2-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)carbonyl]piperazine-1-carboxylate | C1(CC1)N1CC(N(CC1)C(=O)OCC1=CC=CC=C1)C(=O)N1CCN(CC1)C(=O)NC1=CC(=C(C=C1)Cl)Cl | C27H31Cl2N5O4
reactant | benzyl 4-{[(3R)-1-cyclopropylpiperidin-3-yl]methyl}piperazine-1-carboxylate | C1(CC1)N1C[C@H](CCC1)CN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C21H31N3O2
product | 4-[(2R)(4-Cyclopropylpiperazin-2-yl)carbonyl]-N-(3,4-dichlorophenyl)piperazine-1-carboxamide | C1(CC1)N1C[C@@H](NCC1)C(=O)N1CCN(CC1)C(=O)NC1=CC(=C(C=C1)Cl)Cl | C19H25Cl2N5O2
